US08293925B2
Synthesis of (R)—N-(3-cyano-5-(trifluoromethyl)phenyl)-1-(2,6-dimethylphenyl)-3-isopropyl-5-oxopyrrolidine-3-carboxamide
To a solution of (R)-1-(2,6-dimethylphenyl)-3-isopropyl-5-oxopyrrolidine-3-carboxylic acid (25 mg, 0.091 mmol) and methanesulfonyl chloride (9 μL, 0.12 mmol) in THF (0.9 mL) at 0° C. was added diisopropylethylamine (0.047 mL, 0.27 mmol). The solution was stirred 15 min at 0° C., warmed to ambient temperature, and 3-amino-5-(trifluoromethyl)benzonitrile (34 mg, 0.18 mmol) was subsequently added and the solution was heated at 55° C. overnight. The following day, the reaction mixture was purified via preparative HPLC, which failed to provide the desired product in sufficient purity. To a solution of the crude mixture (14 mg) in 2 mL THF was added aqueous NaOH (3 mL, 1.0 M) and the solution was stirred at 50° C. overnight. The following day, the solution was quenched with 10% HCl, partitioned with ethyl acetate, and the organic layer was separated. The organics were subsequently dried with sodium sulfate, concentrated in vacuo, and purified via preparative HPLC to afford the desired amide as a white solid. 1H NMR (400 MHZ, CDCl): δ 10.28 (s, 1H), 8.39 (s, 1H), 8.30 (s, 1H), 8.05 (s, 1H), 7.04-7.17 (m, 3H), 3.99 (d, J=11.2 Hz, 1H), 3.67 (d, J=10.8 Hz, 1H), 3.05 (d, J=17.2 Hz, 1H), 2.70 (d, J=17.2 Hz, 1H), 2.38 (septet, J=6.8 Hz, 1H), 2.17 (s, 3H), 2.00 (s, 3H), 0.98 (t, J=6.8 Hz, 6H). LC-MS Rt (retention time): 2.81 min; MS: (ES) m/z 444 (M+H+).

reactant | (R)-1-(2,6-dimethylphenyl)-3-isopropyl-5-oxopyrrolidine-3-carboxylic acid | 0.091 mmol, 25 mg | CC1=C(C(=CC=C1)C)N1C[C@](CC1=O)(C(=O)O)C(C)C | C16H21NO3
reactant | methanesulfonyl chloride | 0.12 mmol, 9 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.27 mmol, 0.047 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-amino-5-(trifluoromethyl)benzonitrile | 0.18 mmol, 34 mg | NC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H5F3N2
solvent | THF | 0.9 mL | C1CCOC1 | C4H8O
product | (R)—N-(3-cyano-5-(trifluoromethyl)phenyl)-1-(2,6-dimethylphenyl)-3-isopropyl-5-oxopyrrolidine-3-carboxamide | C(#N)C=1C=C(C=C(C1)C(F)(F)F)NC(=O)[C@@]1(CN(C(C1)=O)C1=C(C=CC=C1C)C)C(C)C | C24H24F3N3O2
